US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)butanamide (70 mg, 0.292 mmol), 4-(1,3,4-oxadiazol-2-yl)aniline (60 mg, 0.372 mmol), K2CO3 (80 mg, 0.579 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(6-(4-(1,3,4-oxadiazol-2-yl)phenylamino)-5-cyanopyrazin-2-ylamino)butanamide (57 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)butanamide | 0.292 mmol, 70 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC)C#N | C9H10ClN5O
reactant | 4-(1,3,4-oxadiazol-2-yl)aniline | 0.372 mmol, 60 mg | O1C(=NN=C1)C1=CC=C(N)C=C1 | C8H7N3O
reactant | K2CO3 | 0.579 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(6-(4-(1,3,4-oxadiazol-2-yl)phenylamino)-5-cyanopyrazin-2-ylamino)butanamide | 57 mg | O1C(=NN=C1)C1=CC=C(C=C1)NC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC)C#N | C17H16N8O2
